US06300334B1
c) 3-Methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Prepared according to the method described in Example 37 step d from 5-bromo-3-methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.2 g), sodium hydride (0.12 g) and 2-propanethiol (0.26 ml) in dry tetrahydrofuran (150 ml) with stirring at room temperature for 19 hours. The residue was purified by flash silica chromatography eluting with a gradient of 20-50% ethyl acetate in isohexane to give the title compound as a yellow solid (0.92 g).

reactant | 5-bromo-3-methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.2 g | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)C(=O)C2=NC1=C(N2C)C=CC=C1 | C20H19BrN4O3S
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 2-propanethiol | 0.26 ml | CC(C)S | C3H8S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-Methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.92 g | CN1C(N(C2=C(C1=O)C(=C(S2)C(=O)C2=NC1=C(N2C)C=CC=C1)SC(C)C)CC(C)C)=O | C23H26N4O3S2
